US04213995
2-(2-Chloro-4-methyl-5-nitro-phenylimino)-imidazolidine by method B
6.4 gm (0.0234 mol) of 2-(2-chloro-4-methyl-phenylimino)-imidazolidine nitrate were added slowly over a period of 15 minutes to 10 ml of concentrated sulfuric acid at 20° C., while slightly cooling and vigorously stirring. The viscous reaction mixture was allowed to stand at room temperature for two hours, whereupon ice was added thereto, and the precipitate formed thereby was filtered off, recrystallized from methanol and dried. Yield: 2 gm (33.5% of theory) of 2-(2-chloro-4-methyl-5-nitro-phenylimino)-imidazolidine, m.p. 198°-201° C.; Rf -value 0.7 in the mobile phase 50 parts benzene, 40 parts dioxane, 5 parts ethanol and 5 parts ammonium hydroxide; carrier: silicagel G; visualization: ultraviolet light and potassium iodoplatinate.

reactant | 2-(2-chloro-4-methyl-phenylimino)-imidazolidine nitrate | 0.0234 mol, 6.4 gm | [N+](=O)(O)[O-].ClC1=C(C=CC(=C1)C)N=C1NCCN1
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(2-Chloro-4-methyl-5-nitro-phenylimino)-imidazolidine | ClC1=C(C=C(C(=C1)C)[N+](=O)[O-])N=C1NCCN1 | C10H11ClN4O2
